US06329372B1
N-(2-Chloronicotinoyl)-L-tyrosine methyl ester
EDC.HCl (2.11 g, 11 mmol) was added to a mixture of L-tyrosine methyl ester hydrochloride (2.32 g, 10 mmol), 2-chloronicotinic acid (1.58 g, 10 mmol), HOBT (1.49 g, 11 mmol) and NMM (2.31 ml, 21 mmol) in DMF (50 ml). The mixture was stirred overnight at room temperature. The solvent was removed in vacuo. the residue dissolved in EtOAc (300 ml) and washed with dilute HCl (100 ml), saturated aqueous NaHCO3 (100 ml), water (3×100 ml) and brine (50 ml), dried (Na2SO4) and solvent removed in vacuo to give the title compound as a yellow gum (3.27 g, 98%). δH (DMSO-d6, 300 MHz) 9.21 (1H, s, OH), 9.03 (1H, d, J 7.9 Hz, CONH), 8.45 (1H, dd, J 4.8, 1.9 Hz, pyrH), 7.67 (1H, dd, J 7.4, 1.9 Hz, pyrH), 7.47 (1H, dd, J 7.5, 4.8 Hz, pyrH), 7.05 (2H, d, J 8.5 Hz, ArH), 6.67 (2H, d, J 8.5 Hz, ArH), 4.58 (1H, ddd, J 9.6, 7.9, 5.4 Hz, CHα), 3.65 (3H, s, CO2Me), 3.01 (1H, dd, J 13.9, 5.4 Hz, CHAHBAr) and 2.85 (1H, dd, J 13.9, 9.6 Hz, CHAHBAr), m/z (ESI, 60V) 335 (MH+).

reactant | EDC.HCl | 11 mmol, 2.11 g | CCN=C=NCCCN(C)C.Cl
reactant | L-tyrosine methyl ester hydrochloride | 10 mmol, 2.32 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | 2-chloronicotinic acid | 10 mmol, 1.58 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | HOBT | 11 mmol, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 21 mmol, 2.31 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-(2-Chloronicotinoyl)-L-tyrosine methyl ester | 3.27 g, 98% | COC([C@@H](NC(C1=C(N=CC=C1)Cl)=O)CC1=CC=C(C=C1)O)=O | C16H15ClN2O4
